US04622318
A mixture of 3-[(Z)-2-(tritylthio)vinyl]pyridine (5 g) and methyl iodide (8.3 ml) in dry methylene chloride (100 ml) was stirred at ambient temperature for 24 hours. The reaction mixture was poured into diethyl ether under stirring. The resultant precipitate was collected by filtration, washed with diethyl ether and air-dried at ambient temperature to give 3-[(Z)-2-(tritylthio)vinyl]-1-methylpyridinium iodide (6.64 g) as yellow powder.

reactant | 3-[(Z)-2-(tritylthio)vinyl]pyridine | 5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)S\C=C/C=1C=NC=CC1 | C26H21NS
reactant | methyl iodide | 8.3 ml | CI | CH3I
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-[(Z)-2-(tritylthio)vinyl]-1-methylpyridinium iodide | 6.64 g | [I-].C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)S\C=C/C=1C=[N+](C=CC1)C | InChI=1S/C27H24NS.HI/c1-28-20-11-12-23(22-28)19-21-29-27(24-13-5-2-6-14-24,25-15-7-3-8-16-25)26-17-9-4-10-18-26;/h2-22H,1H3;1H/q+1;/p-1/b21-19-;
